US09260425B2
A solution containing 5-bromo-1H-pyrazolo[3,4-c]pyridine (168.0 g, 848.4 mmol) and NIS (286.3 g, 1.27 mol) in DMF (1.2 L) was stirred on at room temperature. The reaction mixture was poured into water then filtered. The solid was washed with water and 5% Na2S2O5. The crude product was dried under high vacuum overnight to give 5-bromo-3-iodo-1H-pyrazolo[3,4-c]pyridine.

reactant | 5-bromo-1H-pyrazolo[3,4-c]pyridine | 848.4 mmol, 168.0 g | BrC=1C=C2C(=CN1)NN=C2 | C6H4BrN3
reactant | NIS | 1.27 mol, 286.3 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | water | O | H2O
solvent | DMF | 1.2 L | CN(C)C=O | C3H7NO
product | 5-bromo-3-iodo-1H-pyrazolo[3,4-c]pyridine | BrC=1C=C2C(=CN1)NN=C2I | C6H3BrIN3
